US07592358B2
36.1c. 3-{5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]pyridin-2-yl}propionaldehyde
1.62 mL (20.07 mmol) of pyridine and 8.51 g (3.01 mmol) of Dess-Martin periodinane solution (15% in DCM) were added to a solution of 0.70 g (2.01 mmol) of 3-{5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]pyridin-2-yl}propan-1-ol in 50 mL of DCM and the mixture was stirred for 16 hours at RT. Semisaturated aqueous sodium bicarbonate solution was added and the aqueous phase was extracted with MTBE. The combined organic extracts were dried over magnesium sulfate and evaporated down in vacuo. The residue was purified by HPLC-MS (Zorbax Bonus C18 amide-phase 5 μm, gradient 0.15% formic acid in water/acetonitrile 10/90→90/10 v/v). Yield: 115 mg (17% of theoretical); C21H15ClN2O (M=346.809); calc.: molpeak (M+H)+: 347/349 (Cl); found: molpeak (M+H)+: 347/349 (Cl); HPLC-MS: 6.70 minutes (method A).

reactant | pyridine | 20.07 mmol, 1.62 mL | N1=CC=CC=C1 | C5H5N
reactant | Dess-Martin periodinane | 3.01 mmol, 8.51 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 3-{5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]pyridin-2-yl}propan-1-ol | 2.01 mmol, 0.70 g | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)CCCO | C21H17ClN2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-{5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]pyridin-2-yl}propionaldehyde | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)CCC=O | C21H15ClN2O
